US04411898
Phosphorus oxychloride (0.8 g) was added at 0° C. to a mixture of 2-benzyloxyimino-2-(2-aminothiazol-4-yl)acetic acid (syn isomer) (1.1 g) and dry tetrahydrofuran (11.0 ml), and the mixture was stirred for 15 minutes at 0° C. Trimethylsilylacetamide (0.7 g) was added thereto and it was stirred for 15 minutes. Phosphorus oxychloride (0.8 g) was added thereto and it was stirred for 15 minutes. To the resulting mixture was added dry dimethylformamide (0.4 g) and it was stirred for 30 minutes at 0°-3° C. to give clear solution. On the other hand, acetone (9.0 ml) was added to a solution of 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.5 g) and sodium bicarbonate (1.0 g) in water (9.0 ml) and thereto was added the clear solution as obtained above at -3° to 3° C. and pH 7.5 to 8.5. The mixture was stirred for 1 hour at the same temperature and pH. An aqueous layer was separated and washed with ethyl acetate. After distilling off the remaining ethyl acetate, the aqueous layer was adjusted to pH 5.0 with 10% hydrochloric acid and subjected to column chromatography on Diaion HP-20 resin (Trademark: prepared by Mitsubishi Chemical Industries Ltd.) using 10% isopropyl alcohol as an eluent. The eluate was adjusted to pH 2.7 with 10% hydrochloric acid and precipitates were collected by filtration, washed with water and dried to give 7-[2-benzyloxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.78 g).

reactant | Phosphorus oxychloride | 0.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-benzyloxyimino-2-(2-aminothiazol-4-yl)acetic acid | 1.1 g | C(C1=CC=CC=C1)ON=C(C(=O)O)C=1N=C(SC1)N | C12H11N3O3S
reactant | Trimethylsilylacetamide | 0.7 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | Phosphorus oxychloride | 0.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.5 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O | C11H12N6O5S2
reactant | sodium bicarbonate | 1.0 g | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 9.0 ml | O | H2O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | acetone | 9.0 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 0.4 g | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 11.0 ml | O1CCCC1 | C4H8O
product | 7-[2-benzyloxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.78 g | C(C1=CC=CC=C1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O)C=1N=C(SC1)N | C23H21N9O7S3
